US05081245
Production of 3-[3-[2-hydroxy-3-(octadecyloxy)propoxy]propyl]-pyridine
To 3-pyridinepropanol (41.9 g), 60% oily sodium hydride (0.74 g) was added, followed by stirring at room temperature for 15 minutes. Crude 1,2-epoxy-3-octadecyloxypropane (10 g), an intermediate in Reference Example 1, was then added, followed by stirring at room temperature for 67 hours. The excess portion of the 3-pyridinepropanol was distilled off under reduced pressure. After adding a small volume of water to the residue, extraction was conducted with a mixture of hexane and ethyl acetate (1:1, 300 ml). After the extract was washed with water and dried, the solvent was distilled off. The resulting residue was purified by silica gel column chromatography (carrier, 250 g; developing solvent, hexane:ethyl acetate:acetone=4:1:0→3:1:1) to yield the desired compound (5.79 g).

reactant | 3-pyridinepropanol | 41.9 g | N1=CC(=CC=C1)CCCO | C8H11NO
reactant | sodium hydride | 0.74 g | [H-].[Na+]
reactant | 1,2-epoxy-3-octadecyloxypropane | 10 g | O1CC1COCCCCCCCCCCCCCCCCCC | C21H42O2
product | 3-[3-[2-hydroxy-3-(octadecyloxy)propoxy]propyl]-pyridine | 5.79 g | OC(COCCCC=1C=NC=CC1)COCCCCCCCCCCCCCCCCCC | C29H53NO3
